US05635527
Tetrahydrofuran (5 ml) was added to ethyl 5-benzylamidino-2-benzofurancarboxylate (325 mg, 1.21mmol) and a 0.5N aqueous sodium hydroxide solution (10 ml, 5 mmol) was added. The mixture was stirred at room temperature for 45 minutes. 1N Hydrochloric acid was added to the reaction mixture to adjust its pH to 2-3 and low boiling matters were distilled away under reduced pressure. The resulting precipitate was collected by filtration, and washed with water to give 213 mg of 5-benzylamidino-2-benzofurancarboxylic acid hydrochloride as a colorless solid (53%).

reactant | ethyl 5-benzylamidino-2-benzofurancarboxylate | 1.21mmol, 325 mg | C(C1=CC=CC=C1)NC(=N)C=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C19H18N2O3
reactant | sodium hydroxide | 5 mmol, 0.5N, 10 ml | [OH-].[Na+]
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | Tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-benzylamidino-2-benzofurancarboxylic acid hydrochloride | 213 mg, 53% | Cl.C(C1=CC=CC=C1)NC(=N)C=1C=CC2=C(C=C(O2)C(=O)O)C1 | InChI=1S/C17H14N2O3.ClH/c18-16(19-10-11-4-2-1-3-5-11)12-6-7-14-13(8-12)9-15(22-14)17(20)21;/h1-9H,10H2,(H2,18,19)(H,20,21);1H
